US05733476
Then, 2.00 g (6.43 mM) of b-bromo-2-octylcoumaran and 28 ml of dry THF were placed in a 100 ml-three-necked flask. To the mixture, 4.5 ml (7.20 mM) of a 1.6M solution of butyllithium in hexane was added dropwise under stirring and nitrogen atmosphere on a dry ice-acetone bath at an inner temperature of -70° to -68° C., followed by stirring for 50 minutes at the same temperature. To the resultant mixture a solution of 3.2 ml (13.9 mM) of triisopropylborate in 5.7 ml of dry THF was added dropwise in 10 minutes at an inner temperature of -73° to -68° C., followed by stirring for minutes at the same temperature. Thereafter, the cooling bath was removed and the inner temperature was increased to room temperature, followed by gradual addition of 9.5 ml of 10%-hydrochloric acid. After the reaction, the reaction mixture was poured into water and subjected to extraction with isopropyl ether, followed by washing with water, drying with mirabilite and distilling-off of the solvent to obtain a residue. To the residue, hexane was added and the mixture was left standing in a freezer to precipitate a crystal. The crystal was recovered by filtration to obtain 1.19 g of 2-octylcoumaran-5-boronic acid (Yield: 67.1%).

reactant | b-bromo-2-octylcoumaran | 6.43 mM, 2.00 g | BrC(CC1OC2=CC=CC=C2C1)CCCCCC | C16H23BrO
reactant | butyllithium | C(CCC)[Li]
reactant | triisopropylborate | 13.9 mM, 3.2 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5.7 ml | C1CCOC1 | C4H8O
solvent | THF | 28 ml | C1CCOC1 | C4H8O
product | 2-octylcoumaran-5-boronic acid | 1.19 g, Yield: 67.1% | C(CCCCCCC)C1OC2=CC=C(C=C2C1)B(O)O | C16H25BO3
